### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/SkewPolynomial/Basic.lean [hunk 1]
```diff
@@ -146,7 +146,7 @@ def monomial (n : ℕ) : R →ₗ[R] SkewPolynomial R := lsingle (ofAdd n)
 lemma monomial_zero_right (n : ℕ) : monomial n (0 : R) = 0 := single_zero _
 
 lemma monomial_zero_one [MulSemiringAction (Multiplicative ℕ) R] :
-  monomial (0 : ℕ) (1 : R) = 1 := by rfl
```
Comment (grunweg) [inline Mathlib/Algebra/SkewPolynomial/Basic.lean:149]: Does this lemma fit on one line? That could be even nicer.

File: Mathlib/Analysis/LocallyConvex/WithSeminorms.lean [hunk 2]
```diff
@@ -288,18 +288,8 @@ theorem WithSeminorms.hasBasis_zero_ball (hp : WithSeminorms p) :
...
-  `grind` is failing here
-  Minimised in https://github.com/leanprover/lean4/pull/10497
-  -/
-  constructor
-  · rintro ⟨-, ⟨s, r, hr, rfl⟩, hV⟩
-    exact ⟨s, r, hr, hV⟩
-  · rintro ⟨s, r, hr, hV⟩
-    exact ⟨_, ⟨s, r, hr, rfl⟩, hV⟩
+  simp only [hp.hasBasis.mem_iff, SeminormFamily.basisSets_iff, Prod.exists, id_eq]
+  grind
```
Comment (grunweg) [inline Mathlib/Analysis/LocallyConvex/WithSeminorms.lean:292]: Did you eyeball-check the performance of grind here? (If so, that's good enough for me.)

File: Mathlib/Combinatorics/Enumerative/Bell.lean [hunk 3]
```diff
@@ -21,20 +21,18 @@ The definition presents it as a natural number.
 * `Nat.uniformBell m n` : short name for `Multiset.bell (replicate m n)`
 
 * `Multiset.bell_mul_eq` shows that
-    `m.bell * (m.map (fun j ↦ j !)).prod *
-      Π j ∈ (m.toFinset.erase 0), (m.count j)! = m.sum !`
+  `m.bell * (m.map (fun j ↦ j !)).prod * Π j ∈ (m.toFinset.erase 0), (m.count j)! = m.sum !`
 
 * `Nat.uniformBell_mul_eq`  shows that
-    `uniformBell m n * n ! ^ m * m ! = (m * n)!`
+  `uniformBell m n * n ! ^ m * m ! = (m * n)!`
```
Comment (grunweg) [inline Mathlib/Combinatorics/Enumerative/Bell.lean]: How about this, for consistency?
```suggestion
  `uniformBell m n * n ! ^ m * m ! = (m * n) !`
```

File: Mathlib/Control/Monad/Cont.lean [hunk 4]
```diff
@@ -177,10 +177,9 @@ instance [MonadCont m] [LawfulMonadCont m] : LawfulMonadCont (OptionT m) where
       bind_congr fun | some _ => rfl | none => by simp [@callCC_dummy m _]
   callCC_bind_left := by
     intros
-    simp only [callCC, OptionT.callCC, OptionT.goto_mkLabel, bind_pure_comp, OptionT.run_bind,
-      OptionT.run_mk, Option.elimM_map, Option.elim_some, @callCC_bind_left m _]
-    ext; rfl
-  callCC_dummy := by intros; simp only [callCC, OptionT.callCC, @callCC_dummy m _]; ext; rfl
+    ext
```
Comment (grunweg) [inline Mathlib/Control/Monad/Cont.lean:180]: Again, just to be sure: you eyeball-checked the performance here, right?

File: Mathlib/Topology/Convenient/GeneratedBy.lean [hunk 5]
```diff
@@ -170,7 +170,7 @@ lemma continuous_iff (g : Y → Z) :
     Continuous g ↔ ∀ ⦃i : ι⦄ (f : C(X i, Y)), Continuous (g ∘ f) := by
   rw [(homeomorph (X := X)).isQuotientMap.continuous_iff,
     WithGeneratedByTopology.continuous_from_iff]
-  rfl
+  simp [Function.comp_assoc g, ← Function.comp_assoc WithGeneratedByTopology.equiv]
```
Comment (grunweg) [inline Mathlib/Topology/Convenient/GeneratedBy.lean:173]: This line is fine speed-wise, right?

**Review by grunweg — COMMENTED** [review]
Thanks! Nice work as usual.
bors d+
